US04063019
α-[[[(2,4-dioxo-1-imidazolidinyl)amino]carbonyl]amino]benzene acetic acid
29.4 g. of α-[[[(2,4-dioxo-1-imidazolidinyl)amino]-carbonyl]amino]benzeneacetic acid, ethyl ester are added to 138 ml. of 2N sodium hydroxide solution with stirring. The substance goes quickly into solution upon slight heating. The mixture is stirred for 2 hours at room temperature, filtered and the clean filtrate is acidified to pH 1 with concentrated hydrochloric acid. Upon rubbing, α-[[[(2,4-dioxo-1-imidazolidinyl)amino]carbonyl]amino]benzene acetic acid crystallizes out. The mixture is let stand in the refrigerator overnight and then filtered under suction, yield 21.9 g., m.p. 139°-143°.

reactant | α-[[[(2,4-dioxo-1-imidazolidinyl)amino]-carbonyl]amino]benzeneacetic acid, ethyl ester | O=C1N(CC(N1)=O)NC(=O)NC(C(=O)OCC)C1=CC=CC=C1 | C14H16N4O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | α-[[[(2,4-dioxo-1-imidazolidinyl)amino]carbonyl]amino]benzene acetic acid | O=C1N(CC(N1)=O)NC(=O)NC(C(=O)O)C1=CC=CC=C1 | C12H12N4O5
